US07001910B1
20.1—Synthesis of 2-[(6-chloropyrimidin-4-yl)-methylamino]-ethanol
To a solution of 14.8 g (0.1 mmol) 2,4-dichloropyrimidine in 120 ml ethanol and 20 ml water, cooled to 0° C., 11.3 g (0.15 mol) 2-(N-methylamino)ethanol is added. The resulting mixture is stirred at room temperature for ½ h., then concentrated to dryness and finally partitioned between CH2Cl2 and a NaHCO3 saturated solution.

reactant | 2,4-dichloropyrimidine | 0.1 mmol, 14.8 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 2-(N-methylamino)ethanol | 0.15 mol, 11.3 g | CNCCO | C3H9NO
solvent | ethanol | 120 ml | C(C)O | C2H6O
solvent | water | 20 ml | O | H2O
product | 2-[(6-chloropyrimidin-4-yl)-methylamino]-ethanol | ClC1=CC(=NC=N1)N(CCO)C | C7H10ClN3O
